US04812164
using 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone and sodium ethylate in ethanol there is obtained 2-ethoxy-1-(4-chloro-2-fluoro -5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 101°-103° C.;

reactant | 2-chloro-1-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | ClC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C14H10Cl2F4N2O2
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-ethoxy-1-(4-chloro-2-fluoro -5-isopropoxyphenyl)-4-trifluoromethyl-6(1H)-pyrimidinone | C(C)OC=1N(C(C=C(N1)C(F)(F)F)=O)C1=C(C=C(C(=C1)OC(C)C)Cl)F | C16H15ClF4N2O3
